### PR TITLE
Yet more rules for `Lib`

### PR DESCRIPTION
**Pull request by michaelmcinerney**

### CODE REVIEW

File: lib/Heap_List.thy [hunk 1]
```diff
@@ -383,6 +383,14 @@ lemma not_head_prev_not_None:
   using sym_heap_prev_None_is_start heap_path_head
   by fastforce
 
+lemma heap_ls_neighbour_in_set:
+  "\<lbrakk>heap_ls hp st xs; sym_heap hp hp'; st \<noteq> None \<longrightarrow> hp' (the st) = None; p \<in> set xs\<rbrakk>
+   \<Longrightarrow> \<forall>nbr. (hp p = Some nbr \<longrightarrow> nbr \<in> set xs) \<and> (hp' p = Some nbr \<longrightarrow> nbr \<in> set xs)"
```
Comment (lsf37) [inline lib/Heap_List.thy:388]: Is the object logic `∀` necessary or could `nbr` just be a free variable?

File: lib/Lib.thy [hunk 2]
```diff
@@ -2533,8 +2533,18 @@ next
...
+lemma rsubst2:
+  "\<lbrakk>P s x; s = t; x = y\<rbrakk> \<Longrightarrow> P t y"
+  by simp
+
+lemma rsubst3:
+  "\<lbrakk>P a b c ; a = s; b = t; c = u\<rbrakk> \<Longrightarrow> P s t u"
+  by simp
+
+lemma rsubst4:
+  "\<lbrakk>P a b c d; a = s; b = t; c = u; d = v\<rbrakk> \<Longrightarrow> P s t u v"
```
Comment (lsf37) [inline lib/Lib.thy:2547]: It'd be good the get the naming consistent on these. I can see the reasoning for `rsubst3` and `rsubst4` with a, b for the first and s, t for the second list of arguments. We could do the same for `rsubst2`. Changing the old `rsubst` is probably a lost cause, and we do want similarity with `subst`. What do people think?

File: lib/HaskellLemmaBucket.thy [hunk 3]
```diff
@@ -127,10 +127,14 @@ lemma empty_fail_stateAssert[intro!, simp]:
   "empty_fail (stateAssert P l)"
   unfolding stateAssert_def by simp
 
-lemma haskell_assert_wp:
+lemma haskell_assert_wp[wp]:
```
Comment (lsf37) [inline lib/HaskellLemmaBucket.thy:130]: It does lead to a bunch of new `hoare_drop_imps` and `crunch_wps`, but I think I agree with the overall strategy of making sure that automation doesn't lose information. Accidental `haskell_assert_inv` uses are very hard to debug.

**Review by lsf37 — APPROVED** [review]

**Comment by lsf37** [comment]
Looks like there are still a few proof failures in the Orhpanage session. Probably missing a `crunch_wps` or `hoare_drop_imps` somewhere.

**Comment by michaelmcinerney** [comment]
Sorry to force push - I didn't realise that reviews had begun. The changes I made were just to the `Orphanage.thy` files, within the commit for `haskell_assert_wp`

File: lib/Lib.thy (hunk 2 above)
Comment (michaelmcinerney) [reply lib/Lib.thy:2547]: I haven't looked much into how these are used for MCS, and I haven't given too much thought to this, but I should at least point out now that these rules (including the reformulation of `rsubst` into a `lemmas` statement) are copied straight from the `rt` branch

File: lib/Heap_List.thy (hunk 1 above)
Comment (michaelmcinerney) [reply lib/Heap_List.thy:388]: This could probably be changed to have a free variable. This is really only used to prove a variant that has `list_queue_relation` in the assumptions, instead of `heap_ls` (and because it has `list_queue_relation`, which currently lives in `TcbAcc_R`, I've left it in Refine, though we could maybe move that to `Lib` too if we really wanted to). That variant is used in a fair few places with `cut_tac` and `frule`, the idea being that we then have a fairly general statement sitting around in our assumptions that `fastforce` can go to town with. I think we don't want a fixed free variable for that rule, because we want to reason about both previous pointers and next pointers

File: lib/HaskellLemmaBucket.thy (hunk 3 above)
Comment (michaelmcinerney) [reply lib/HaskellLemmaBucket.thy:130]: I should probably have also mentioned that this is what's done in the `rt` branch, and that Corey says there in the PR that made it `[wp]` that it mirrors what's done with the other wp rules like `assert_wp`

Comment (lsf37) [reply lib/HaskellLemmaBucket.thy:130]: Yes, I'm happy with the `[wp]` for this one, was just thinking out loud.

File: lib/Lib.thy (hunk 2 above)
Comment (lsf37) [reply lib/Lib.thy:2547]: Understood -- we should take the opportunity to make these better. The `rt` branch does not historically have very high library standards in terms of thought put into naming, styles, etc, because that wasn't a priority at the time. We do want to invest those kinds of considerations on `master`, though, because they will become ingrained when they land there.

File: lib/Heap_List.thy (hunk 1 above)
Comment (lsf37) [reply lib/Heap_List.thy:388]: If there's a good reason, it's fine and if  it's used mostly as `drule`/`frule` and we want to delay instantiation then that sounds good to me.

File: lib/Lib.thy (hunk 2 above)
Comment (michaelmcinerney) [reply lib/Lib.thy:2547]: I think if we went for `a, b` and `s, t` for `rsubst2`, then that would be best

File: lib/HaskellLemmaBucket.thy (hunk 3 above)
Comment (Xaphiosis) [reply lib/HaskellLemmaBucket.thy:130]: Is this related to the long-standing annoyance of how in the abstract spec the default wp rule would keep the knowledge of what was asserted, but in the Haskell it'd just get dropped?

Comment (michaelmcinerney) [reply lib/HaskellLemmaBucket.thy:130]: Yes I think so. I think previously, `haskell_assert_inv` was generated and added to the `[wp]` set by a `crunch` somewhere and was picked up by many proofs, and my guess is that now that `haskell_assert_wp` is added to the `[wp]` set in `Lib`, that rule is now preferred and won't lose information.

File: lib/Lib.thy (hunk 2 above)
Comment (lsf37) [reply lib/Lib.thy:2547]: Yup, happy with that.

File: lib/Corres_UL.thy [hunk 4]
```diff
@@ -1176,6 +1176,18 @@ lemma corres_move_asm:
 
 lemmas corres_cross_over_guard = corres_move_asm[rotated]
 
+lemma corres_cross_add_guard:
+  "\<lbrakk> \<And>s s'. \<lbrakk>(s,s') \<in> sr; P s; P' s'\<rbrakk> \<Longrightarrow> Q s';
+     corres_underlying sr nf nf' r P  (P' and Q) f g\<rbrakk>
```
Comment (Xaphiosis) [inline lib/Corres_UL.thy:1181]: extra space before `(P'`, also wouldn't `Q'` make more sense than `Q` given it's on the concrete side?

File: proof/refine/AARCH64/Syscall_R.thy [hunk 5]
```diff
@@ -2086,7 +2086,7 @@ crunches handleVMFault
 
 crunches handleHypervisorFault
   for ksit[wp]: "\<lambda>s. P (ksIdleThread s)"
-  (wp: undefined_valid simp: isFpuEnable_def)
+  (wp: undefined_valid haskell_assert_inv simp: isFpuEnable_def)
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Syscall_R.thy:2089]: didn't you already put `haskell_assert_inv` into `[wp]`?

Comment (michaelmcinerney) [reply proof/refine/AARCH64/Syscall_R.thy:2089]: `haskell_assert_wp` is in the `[wp]` set

File: lib/Corres_UL.thy (hunk 4 above)
Comment (michaelmcinerney) [reply lib/Corres_UL.thy:1181]: Yes it would make much more sense to use `Q'`. This is another rule copied straight over from the `rt` branch. Should I change it here? If I do change it for `master`, should I change it on the `rt` branch too? That would be quite annoying, because there would be many rules which do write `where Q=blah`

File: proof/refine/AARCH64/Syscall_R.thy (hunk 5 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/Syscall_R.thy:2089]: Right! my bad.

File: lib/Corres_UL.thy (hunk 4 above)
Comment (Xaphiosis) [reply lib/Corres_UL.thy:1181]: Do we use `corres_cross_add_guard` that often? Or are you saying there are other rules which also followed the `Q` scheme for the concrete side?

Comment (michaelmcinerney) [reply lib/Corres_UL.thy:1181]: `corres_cross_add_guard` is used dozens and dozens of times on the `rt` branch. It wouldn't be horrible to change, but it would be a bit of a nuisance

Comment (Xaphiosis) [reply lib/Corres_UL.thy:1181]: If it's only `corres_cross_add_guard` I'd vote for updating it and its uses, but if other lemmas follow the same scheme, I'd say defer to another round.

Comment (michaelmcinerney) [reply lib/Corres_UL.thy:1181]: OK I will update it on both branches

File: lib/Corres_UL.thy [hunk 6]
```diff
@@ -1176,6 +1176,18 @@ lemma corres_move_asm:
...
+lemma corres_cross_add_guard:
+  "\<lbrakk> \<And>s s'. \<lbrakk>(s,s') \<in> sr; P s; P' s'\<rbrakk> \<Longrightarrow> Q' s';
+     corres_underlying sr nf nf' r P (P' and Q') f g\<rbrakk>
+    \<Longrightarrow> corres_underlying sr nf nf' r P P' f g"
+  by (fastforce simp: corres_underlying_def)
+
+lemma corres_cross_add_abs_guard:
+  "\<lbrakk> \<And>s s'. \<lbrakk>(s,s') \<in> sr; P s; P' s'\<rbrakk> \<Longrightarrow> Q s;
+     corres_underlying sr nf nf' r (P and Q)  P' f g\<rbrakk>
+    \<Longrightarrow> corres_underlying sr nf nf' r P P' f g"
```
Comment (Xaphiosis) [inline lib/Corres_UL.thy:1188]: ah, I only now noticed this, shouldn't the `⟹` align with the `⟦`?

File: lib/Corres_UL.thy (hunk 4 above)
Comment (Xaphiosis) [reply lib/Corres_UL.thy]: Cheers

**Review by Xaphiosis — APPROVED** [review]

File: lib/Corres_UL.thy (hunk 6 above)
Comment (michaelmcinerney) [reply lib/Corres_UL.thy:1188]: There are quite a few lemmas in this theory file with this same problem. Should I fix up just this one, or all of them?

Comment (michaelmcinerney) [reply lib/Corres_UL.thy:1188]: Well, I can at least fix it in the lemmas I've introduced in this PR. But the one above is old and wrong, and there are other instances of this elsewhere

Comment (Xaphiosis) [reply lib/Corres_UL.thy:1188]: For this round, I'd stick to the ones you're adding, but we'd welcome a future PR that consolidates the others.

**Comment by Xaphiosis** [comment]
Too late now, but one of the commit messages has an extra:
```
reindent corres_cross_add_guard and friend squash

Signed-off-by: Michael McInerney <michael.mcinerney@proofcraft.systems>
```
